US04272533
EXAMPLE 2: 2-(2-dimethylaminoethyl)-3-methyl-1-phenylindoline
To a solution of 22.3 g of 2-(2-dimethylaminoethyl)-3-methyl-1-phenylindole in 160 ml of tetrahydrofuran there are added 6.1 g of sodium borohydride. 26.3 ml of boron trifluoride diethyl etherate are added dropwise at room temperature. The mixture is then heated at reflux for one hour, cooled to 0° and 15 ml of water are slowly added dropwise. The mixture is then poured onto ice-water and the resulting boron complex is extracted with ethyl acetate.

reactant | 2-(2-dimethylaminoethyl)-3-methyl-1-phenylindole | 22.3 g | CN(CCC=1N(C2=CC=CC=C2C1C)C1=CC=CC=C1)C | C19H22N2
reactant | sodium borohydride | 6.1 g | [BH4-].[Na+]
reactant | boron trifluoride diethyl etherate | 26.3 ml | B(F)(F)F.CCOCC
reactant | water | 15 ml | O | H2O
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
product | 2-(2-dimethylaminoethyl)-3-methyl-1-phenylindoline | CN(CCC1N(C2=CC=CC=C2C1C)C1=CC=CC=C1)C | C19H24N2
